US09328112B2
(R)-tert-butyl(1-hydroxypent-4-yn-2-yl)carbamate
An oven-dried, nitrogen-flushed 3-neck 500 mL round bottom flask equipped with a pressure-equalizing addition funnel was charged with LiAlH4 (1N in tetrahydrofuran, 46.9 ml, 46.9 mmol), and the flask was chilled in an ice-water bath. A solution of (R)—N-Boc-propargylglycine (5.0 g, 23.45 mmol) in tetrahydrofuran (100 ml) was then added dropwise through the funnel, controlling the addition so that the bubbling was not too vigorous. The reaction was allowed to come to room temperature and was stirred overnight, and chilled in an ice bath. Saturated aqueous NaHCO3 solution (15 mL) was added dropwise over about 0.5 hours. The resulting suspension was diluted with water (˜25 mL) and filtered through diatomaceous earth, rinsing with ether. The filtrate was transferred to a separatory funnel and the layers were separated. The organic phase was washed with saturated Rochelle's salt, water and brine then dried (Na2SO4), filtered and concentrated to give the title compound, which was used without further purification.

reactant | LiAlH4 | 46.9 mmol, 1N, 46.9 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (R)—N-Boc-propargylglycine | 23.45 mmol, 5.0 g | CC(C)(C)OC(=O)N[C@H](CC#C)C(=O)[O-]
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | ˜25 mL | O | H2O
product | (R)-tert-butyl(1-hydroxypent-4-yn-2-yl)carbamate | C(C)(C)(C)OC(N[C@@H](CO)CC#C)=O | C10H17NO3
